US06552061B1
L-alanine laurylamide (25 g) and 1 g of sodium hydroxide were dissolved in 20 ml of methanol. To the solution were added 1.0 ml of salicylaldehyde and 0.1 g of sodium boron hydride in this order. After the mixture was stirred for 1 hour, 1.0 ml of salicylaldehyde and 0.1 g of sodium boron hydride were added thereto again in this order. After the resulting mixture was stirred overnight at room temperature, the insoluble matter was separated through filtration, and the residue was adjusted to a pH of 7 with hydrochloric acid. The oil was obtained through concentration under reduced pressure was dissolved in diethyl ether, washed with water, and then dried over magnesium sulfate. After the drying agent was separated through filtration, the filtrate was concentrated under reduced pressure to obtain 3 g of N-(2-hydroxybenzyl)-L-alanine laurylamide.

reactant | L-alanine laurylamide | 25 g | C(CCCCCCCCCCC)NC([C@@H](N)C)=O | C15H32N2O
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | salicylaldehyde | 1.0 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium boron hydride | 0.1 g | B.[Na]
reactant | salicylaldehyde | 1.0 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium boron hydride | 0.1 g | B.[Na]
solvent | methanol | 20 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(2-hydroxybenzyl)-L-alanine laurylamide | 3 g | C(CCCCCCCCCCC)NC([C@@H](NCC1=C(C=CC=C1)O)C)=O | C22H38N2O2
